US05116995
To a suspension of 1.47 g of 60% sodium hydride (in a oil) in 35 ml of dry N,N-dimethylformamide was added dropwise over a 30 minutes period a solution of 7.00 g of ethyl 5,8-dimethylcarbazole-4-carboxylate obtained above in 35 ml of dry N,N-dimethylformamide, and the mixture was stirred for a further 30 minutes. To the mixture was added dropwise a solution of 6.99 g of p-toluenesulfonyl chloride in 35 ml of dry N,N-dimethyl-formamide, and the mixture was stirred further overnight. The reaction solution was poured into ice water and extracted with ethyl acetate, and the organic layer was washed, in turn, with dilute hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was chromatographed on silica gel column with hexane - ethyl acetate (9 : 1) to give 7.40 g of ethyl 5,8-dimethyl-9-p-toluenesulfonylcarbazole-4- carboxylate.

reactant | sodium hydride | 1.47 g | [H-].[Na+]
reactant | ethyl 5,8-dimethylcarbazole-4-carboxylate | 7.00 g | CC1=C2C=3C(=CC=CC3NC2=C(C=C1)C)C(=O)OCC | C17H17NO2
reactant | p-toluenesulfonyl chloride | 6.99 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 35 ml | CN(C=O)C | C3H7NO
product | ethyl 5,8-dimethyl-9-p-toluenesulfonylcarbazole-4- carboxylate | 7.40 g | CC1=C2C=3C(=CC=CC3N(C2=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C24H23NO4S
